US03966957
4-Nitro-N-(1-cyclohexyl-3-pyrrolidinyl)-N-methylbenzamide was prepared from 15 g. (0.085 mole) of 1-cyclohexyl-3-methylaminopyrrolidine and 15 g. (0.08 mole) p-nitrobenzoyl chloride. The 4-nitro-N-(1-cyclohexyl-3-pyrrolidinyl)-N-methylbenzamide was converted to the fumarate salt (8.4 g., 24%) by precipitation with fumaric acid from isopropanol-isopropyl ether. The fumarate salt was dissolved in 95% ethanol and hydrogenated at three atmospheres of hydrogen over Raney Nickel for about two hours. The mixture was filtered, the filtrate concentrated and the residue partitioned between dilute sodium hydroxide and chloroform. The chloroform layer was dried and concentrated and the residue treated with hexamic acid in isopropanol-isopropyl ether. Recrystallization from the same solvent gave 5.2 g. (13.5% overall) of the salt melting 196°-199°C.

reactant | 1-cyclohexyl-3-methylaminopyrrolidine | 0.085 mole | C1(CCCCC1)N1CC(CC1)NC | C11H22N2
reactant | p-nitrobenzoyl chloride | 0.08 mole | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | 4-Nitro-N-(1-cyclohexyl-3-pyrrolidinyl)-N-methylbenzamide | [N+](=O)([O-])C1=CC=C(C(=O)N(C)C2CN(CC2)C2CCCCC2)C=C1 | C18H25N3O3
